US04611056
Preparation of 5-Hydroxy-1,4-dihydro-12H-benzo[a]phenothiazine
A solution of 2-aminothiophenol (385 mg) in methanol (3 ml) was added to a solution of 4a, 5, 8, 8a-tetrahydro-1,4-naphtoquinone (Ref.: Ber. 62, 2361 (1929)) (500 mg) in methanol (10 ml) and stirred for 1 hour. Then conc. HCl (2 ml) was added and the mixture was stirred for another 2 hours. Ethyl acetate was added to the reaction mixture followed by a solution of NaHCO3. The organic layer was decanted, dried and evaporated to dryness. The resulting oily residue was chromatographed on silica gel (CH2Cl2) to afford the title compound.

reactant | 2-aminothiophenol | 385 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4a, 5, 8, 8a-tetrahydro-1,4-naphtoquinone | 500 mg | C1(C=CC(C2CC=CCC12)=O)=O | C10H10O2
reactant | HCl | 2 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Hydroxy-1,4-dihydro-12H-benzo[a]phenothiazine | OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)CC=CC2 | C16H13NOS
